Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:6]=[C:7]([H:8])[H:9].[H:1][O:2][O:3][C:4][H:5]>>[H:1][O:2][O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9],-5.04650749741
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:1],4.24092596701
[C:8][C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12],-4.75688151589
[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[H:10]>>[H:10].[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8][H:9],3.98403108809
[H:1][C:2][C:3]([H:4])=[C:5]([O:6][H:7])[O:8][H:9]>>[C:5]([O:6][H:7])[O:8][H:9].[H:1][C:2]#[C:3][H:4],0.2036306931399999
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7][H:8]>>[C:1]#[C:2][O:3][C:4]([H:5])[H:6].[C:7][H:8],4.657318839059999
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12].[O:1][C:2]#[C:3][H:4],4.0938718859900005
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]=[C:8]([H:9])[H:10].[H:7],4.90076260252
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7][H:8],5.526246723019999
[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:11]([H:12])[H:13].[H:1][C:2]([H:3])[O:4][C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10],2.0281283599
[H:10].[H:1][C:2][O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[O:11][H:12]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12],-4.82483644701
[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-1.24976576335
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13],4.3514898791400025
[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:10]([H:11])([H:12])[H:13].[O:8][H:9]>>[H:1][C:2]#[C:3][C:4]([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13],-3.2121921388700003
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:7]([H:8])([H:9])[H:10].[H:6]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10],-4.87580175976
[O:1]=[C:2]=[C:3]([H:4])[C:5](=[O:6])[C:7][H:8]>>[C:5]1[O:6][C:7]1[H:8].[O:1][C:2]#[C:3][H:4],3.92244800966
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[C:3]([H:4])([H:5])=[C:6]([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:1][O:2],2.76471665485
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],4.52836020708
[H:10].[H:1][O:2][C:3]#[C:4][C:5]([H:6])[C:7]([H:8])=[O:9]>>[H:1][O:2][C:3]#[C:4]/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10],-3.30170168926
[H:1][C:2](=[O:3])[C@:9]([C:7](=[C:4]([H:5])[H:6])[H:8])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]1[O:3][C:4]([H:5])([H:6])[C:7]([H:8])[C@:9]1([H:10])[C:11]([H:12])([H:13])[H:14],2.30014494694
[C:1]#[C:2][H:3].[C:4]([H:5])([O:6][O:7][H:8])=[C:9]([H:10])[H:11]>>[C:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][O:7][H:8])[C:9]([H:10])[H:11],-0.654618942141
[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])=[C:5][H:6]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-5.14741845409
[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[O:10][H:11]>>[H:5].[O:1]=[C:2]([H:3])[C:4]#[C:6][C:7]([H:8])([H:9])[O:10][H:11],2.14140270735
[C:5]([H:6])([H:7])([C:8][H:14])[H:13].[H:1][C:2]([H:3])=[C:4][C:9]([H:10])([C:11])[H:12]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])/[C:8]=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-7.241661208139999
[H:1][C:2]#[C:3][C:4]([H:5])[O:6][C:7][O:8][H:9]>>[H:1][C:2]#[C:3][C:4]([H:5])[O:6][C:7].[O:8][H:9],5.80882503091
[H:1][C:2][C:12]([C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11])([H:13])[H:14]>>[H:1][C:2]1=[C:3]([C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11])[C:12]1([H:13])[H:14],-5.653665423790001
[C:1].[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-5.50709525291
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])=[C:7]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:8],4.25772248247
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[C:4]([H:5])=[C:6]([H:7])[H:8].[H:1][C:2]([H:3])=[C:9][C:10]([H:11])([H:12])[H:13],1.57814273343
[H:1][C:2]#[C:3][C:4]([O:5][C:6]([H:7])[H:8])=[C:9]([H:10])[H:11]>>[C:4]([O:5][C:6]([H:7])[H:8])=[C:9]([H:10])[H:11].[H:1][C:2]#[C:3],6.254050264959999
